* source ZM2120C WITH FT232RL
R_R1         VCC N038540 330
R_R2         VCC N038700 330
R_R3         3.3V TX R
R_R4         3.3V RX R
C_C1         CAPACITOR  
